US07923568B2
To a solution of ethyl 2-benzyl-6-oxo-2,6,7,8-tetrahydrocyclopenta[e]indazole-7-carboxylate (crude product from the previous step, 14 g, approximately 39 mmol) in 160 mL of dimethylacetamide were added potassium carbonate (11 g, 80 mmol), potassium iodide (13.3 g, 80 mmol) and 1-bromo-2-fluoroethane (3.8 mL, 51 mmol) and the stirred mixture was heated at 65° C. under nitrogen for 19 hours. The heating bath was removed and the reaction mixture was allowed to cool for 40 minutes and then water (160 mL) and TIM (160 mL) were added followed by 5N aqueous sodium hydroxide (24 mL, 120 mmol). After 3 hours, additional 5N aqueous sodium hydroxide (5 mL, 25 mmol) was added. After 30 minutes more, analysis of an aliquot by LC/MS showed the reaction to be complete and 1N aqueous HCl (150 mL) was added. The reaction mixture was extracted thoroughly with ethyl acetate and the combined extracts were washed with 5% aqueous NaHCO3 and brine and dried over MgSO4. Evaporation of the solvent under vacuum gave an oil which was twice treated with ethyl ether and evaporated under vacuum to give 2-benzyl-7-(2-fluoroethyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one as a brown solid.

reactant | ethyl 2-benzyl-6-oxo-2,6,7,8-tetrahydrocyclopenta[e]indazole-7-carboxylate | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC(C3=O)C(=O)OCC | C20H18N2O3
reactant | potassium carbonate | 80 mmol, 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 80 mmol, 13.3 g | [I-].[K+]
reactant | 1-bromo-2-fluoroethane | 51 mmol, 3.8 mL | BrCCF | C2H4BrF
reactant | sodium hydroxide | 120 mmol, 5N, 24 mL | [OH-].[Na+]
reactant | sodium hydroxide | 25 mmol, 5N, 5 mL | [OH-].[Na+]
reactant | HCl | 1N, 150 mL | Cl | ClH
solvent | dimethylacetamide | 160 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-benzyl-7-(2-fluoroethyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC(C3=O)CCF | C19H17FN2O
